US07425634B2
(5d) 2,3-dimethyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridine1-oxide
To a dimethylsulfoxide (15 ml) solution of the (8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methanol (1.11 g, 5.82 mmol) obtained in the step (5c), sodium hydride, in oil (326 mg, 8.15 mmol as the content was regarded as 60%) was added at room temperature in a nitrogen atmosphere. The mixture was stirred for 30 minutes in the same conditions. To the reaction mixture, 4-chloro-2,3-dimethylpyridine 1-oxide (917 mg, 5.82 mmol) was added at room temperature and the reaction mixture was stirred at 70° C. for 4.5 hours. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/methanol=1/0-5/2 gradient) and desired fractions were concentrated to obtain the title compound (1.20 g, 66.1% yield) as a brown oil.

reactant | (8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methanol | 5.82 mmol, 1.11 g | CC1(OCC2(OCCO2)CO1)CO | C8H14O5
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-2,3-dimethylpyridine 1-oxide | 5.82 mmol, 917 mg | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 2,3-dimethyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridine1-oxide | 1.20 g, 66.1% yield | CC1=[N+](C=CC(=C1C)OCC1(OCC2(OCCO2)CO1)C)[O-] | C15H21NO6
